datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][S:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)CCCCCC)CCCCCC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)CCCCCC)CCCCCC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C([H])C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCC)C)CC>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCC)C)CC 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)[H]>>CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O:10]C([H])C([H])N1C>>[O-:10]C([H])C([H])N([C:20](OC)=[O:21])C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[Cl:21])C)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1[H])C)CCCCCC.[Cl-:21] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C1=CC=CC=C1)CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(C)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][O+:10]([Li])[C:21]([O-:20])(O[H])O[H]>>[O:20]=[C:21](O[H])O[H].[H][O:10][Li] 20=21;21,10=10"
"C[NH+:21]=[C:20]2[O]C(CC)C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(C)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21][H] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])[H] 21=20;20,10=10"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][S:10]C([H])C(C)C(C)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C([H])[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C([H])C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(CC)[O][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C([H])C(CC)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CC)C)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)C)CCCCCC 10=20;20,21=21"
"[NH:10](C)C(CC)C(O)C([H])C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])C(O)C(CC)[NH+:10]1(C) 10=20;20,21=21"
